datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].C[C:11](=[CH2:10])[O:12][Si:63](C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F>>CC(C)[O:33][C:22](=[N:21][N:20]([CH2:10][C:11](C)=[O+:12][Si:63](C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F)[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Cr-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].C[C:21]1=[CH:20]CC[C:22]1=[O:23]>>CC12C3(C)C4(C)C5(C)C1(C)[Cr-2:11]2345(C#[O+])(C#[O+])C#[O+].C[C:21]1=[C:22]([O-:23])CC[CH:20]1[H:10] 10,11=10,20;20,21=21,22;22,23=23"
C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.O=C1C2=C(C=CC=C2)C(=O)N1C[C@@H]1CCC[NH:10]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH+:10]2CCC[C@H]2CN2C(=O)C3=C(C=CC=C3)C2=O)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([CH3:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C.[CH3:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[Si:63]1(C)CCC[CH:11]([H:10])[CH2:62]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[Si:63]1(C)CCC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
"C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]=[CH:11]1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2C3=C(C=CC=C3)[CH:62]([Si:63](C)(C)C)[CH+:11]2)[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.C[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](C)[C:73]1=[O:74]>>C[N:82]1[C:11](=[O:12])[CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N3CCCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N3CCCC3)[CH:45]=[CH:46]2)[C:61](=[O:62])[N:82](C)[C:73]1=[O:74] 10,11=10,20;12=11,12"
"C1CC[N:12]([C:11]2=[CH:10]CCC2)CC1.CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23]>>CC(C)(C)[O:33][C:22](=[N:21][N:20]([CH:10]1CCC[C:11]1=[N+:12]1CCCCC1)[C:41](=[O:42])[O:43]C(C)(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.[H][C-:10]([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC>>[H][C:10]([C:20]1([O-:21])CCSCC1)([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC 10=20;20,21=21"
"C1C[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)CCO1.CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14]3CCOCC3)[CH:62]=[CH:61]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.CC1(C)[O:72][C:61](=[O:62])[CH-:10][C:81](=[O:82])[O:92]1>>CC1(C)[O:72][C:61](=[O:62])[CH:10]([CH2:20][CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:81](=[O:82])[O:92]1 10=20;20,21=21,22;22,23=23"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1.C[Si:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1 10,11=10,20;20,21=21,22;22,23=23"
